US06506747B1
Synthesis of N-[4-(5-Ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-1-methylindole-2-carboxamide
A DMF (2 mL) solution of 3-(3-pyridyl)-5-ethyl-1-(4′-aminophenyl)pyrazole (264 mg, 1 mmol), N-methylindole-2-carboxylic acid (192.5 mg, 1.1 mmol), PyBOP (570 mg, 1.1 mmol) and N,N-diisopropylethylamine (0.21 mL, 1.2 mmol) was stirred at room temperature. for 18 hr. The reaction mixture was poured into crushed ice, and extracted with methylene chloride (3×50 mL). The combined extracts were washed with water, dried over anhydrous sodium sulfate, and the solvent was evaporated. Chromatography of the residue over silica gel (4% methanol/methylene chloride) followed by preparative TLC (silica gel, developer 5% methanol/methylene chloride) gave the title compound as a light, cream colored solid, m.p. 178-179° C. 1H NMR (DMSO-d6) δ 1.2 (3H, t, J=7.5), 2.73 (2H, q, J=7.5 Hz), 4.05 (3H, s), 6.93 (1H, s), 7.16 (1H, t, J=7.5), 7.34 (1H, t, J=7.5), 7.37 (1H, s), 7.44-7.48 (1H, dd, J=3.1 & 4.7 Hz), 7.57-7.61 (3H, m), 7.74 (1H, d, J=7.9 Hz), 7.98 (2H, d, J=8.8 Hz), 8.2-8.22 (1H, m), 8.53-8.54 (1H, m), 9.07 (1H, d, J=1.8 Hz), 10.56 (1H, s).

reactant | 3-(3-pyridyl)-5-ethyl-1-(4′-aminophenyl)pyrazole | 1 mmol, 264 mg | N1=CC(=CC=C1)C1=NN(C(=C1)CC)C1=CC=C(C=C1)N | C16H16N4
reactant | N-methylindole-2-carboxylic acid | 1.1 mmol, 192.5 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | PyBOP | 1.1 mmol, 570 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[4-(5-Ethyl-3-pyridin-3-yl-pyrazol-1-yl)phenyl]-1-methylindole-2-carboxamide | C(C)C1=CC(=NN1C1=CC=C(C=C1)NC(=O)C=1N(C2=CC=CC=C2C1)C)C=1C=NC=CC1 | C26H23N5O
